US08022062B2
3,4′-Dimethylbutyrophenone:
Add slowly isovaleryl chloride (3.0 g, 24.88 mmol) to an ice-cold stirred solution of aluminum trichloride (4.976 g, 37.32 mmol) in anhydrous toluene (60 mL). Stir the reaction mixture at ambient temperature overnight. Add slowly ice-cold water and extract the mixture twice with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to give the desired intermediate (4.38 g, 100%) that was used without any further purification. GC-MS m/z: 176 (M+).

reactant | isovaleryl chloride | 24.88 mmol, 3.0 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | aluminum trichloride | 37.32 mmol, 4.976 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4′-Dimethylbutyrophenone | 4.38 g, 100% | CC(CC(=O)C1=CC=C(C=C1)C)C | C12H16O
